US06858613B2
To a solution of ethyl pyrrolo[1,2-a]pyrazine-3-carboxylate (0.60 g, 3.18 mmol) in CH2Cl2 (60 mL) is added N-bromosuccinimide (0.56 g, 3.18 mmol) in one portion. After 1 h, solvent is removed in vacuo and the crude solid purified using preparative HPLC (1% IPA/heptane (0-5 minutes) to 2% isocratic) to give a brown solid for ethyl 6-bromopyrrolo[1,2-a]pyrazine-3-carboxylate. Yield 57%. MS (ESI+) for C10H9BrN2O2 m/z 271.01 (M+H)+.

reactant | ethyl pyrrolo[1,2-a]pyrazine-3-carboxylate | 3.18 mmol, 0.60 g | C=1C=2N(C=C(N1)C(=O)OCC)C=CC2 | C10H10N2O2
reactant | N-bromosuccinimide | 3.18 mmol, 0.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | ethyl 6-bromopyrrolo[1,2-a]pyrazine-3-carboxylate | Yield 57% | BrC1=CC=C2N1C=C(N=C2)C(=O)OCC | C10H9BrN2O2
